US06225311B1
A solution of D-penicillamine (0.5 g, 3.35 mmol) in methanol (5 mL) was cooled to 0° C. and crushed sodium hydroxide (0.28 g, 6.87 mmol) was added to give a clear solution. 2-Bromoethanol (0.26 mL, 3.71 mmol) was added and stirred at 0° C. for 1 h and at room temperature for an additional 1.5 h. The reaction was concentrated, and the oily residue was dissolved in 3 mL water and 6 mL DMF and stirred with sodium carbonate (0.82 g 7.2 mmol) and 4butynyloxy-benzenesufonyl chloride (0.78 g, 3.18 mmol) at room temperature overnight. The reaction was concentrated and the residue was extracted with ethyl acetate and water. The aqueous layer was acidified to pH ˜3 with concentrated HCl and extracted with ethyl acetate. The second ethyl acetate extract was washed with water and brine, dried over sodium sulfate, filtered and concentrated to obtain 1.2 g of N-{[4-(2 butynyloxy)phenyl]sulfonyl}-3-[(2-hydroxyethyl)sulfanyl]valine as an oil. Yield 89.6%. Electrospray Mass Spec 400.1 (M−H)−.

reactant | D-penicillamine | 3.35 mmol, 0.5 g | N[C@H](C(C)(C)S)C(=O)O | C5H11NO2S
reactant | sodium hydroxide | 6.87 mmol, 0.28 g | [OH-].[Na+]
reactant | 2-Bromoethanol | 3.71 mmol, 0.26 mL | BrCCO | C2H5BrO
reactant | sodium carbonate | 7.2 mmol, 0.82 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4butynyloxy-benzenesufonyl chloride | 3.18 mmol, 0.78 g | C(#CCC)OC1=CC=C(C=C1)S(=O)(=O)Cl | C10H9ClO3S
solvent | methanol | 5 mL | CO | CH4O
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | N-{[4-(2 butynyloxy)phenyl]sulfonyl}-3-[(2-hydroxyethyl)sulfanyl]valine | 1.2 g, Yield 89.6% | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)N[C@@H](C(C)(C)SCCO)C(=O)O | C17H23NO6S2
